US08871758B2
N-tert-Butyloxycarbonyl-1-(hydroxyphenylmethyl)cyclopropansulfonamide
Under inert gas, 1.00 g of N-tert-butyloxycarbonylcyclopropanesulfonamide were initially charged in 40 ml of THF, and then, at a temperature of −78° C., 6.63 ml of a 1.5 N butyllithium solution in hexane were added dropwise and the mixture was left to stir while cooling with ice for 1 hour. After stirring at room temperature for a further 30 minutes, the mixture was cooled again to −78° C., and a solution of 0.92 ml of benzaldehyde in 4 ml of THF was added. The mixture was allowed to come to room temperature while stirring overnight. The reaction solution was diluted with 20 ml of a saturated aqueous ammonium chloride solution and extracted with 40 ml of ethyl acetate, and the organic phase was dried over Na2SO4 and concentrated by rotary evaporation. The crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (880 mg) with a molecular weight of 327.4 g/mol (C15H21NO5S); MS (ESI): m/e=254 (M-tert-butanol+H+).

reactant | N-tert-butyloxycarbonylcyclopropanesulfonamide | 1.00 g | C(C)(C)(C)OC(=O)NS(=O)(=O)C1CC1 | C8H15NO4S
reactant | butyllithium | 1.5 N | C(CCC)[Li]
reactant | benzaldehyde | 0.92 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | 20 ml | [Cl-].[NH4+]
product | N-tert-Butyloxycarbonyl-1-(hydroxyphenylmethyl)cyclopropansulfonamide | 880 mg | C(C)(C)(C)OC(=O)NS(=O)(=O)C1(CC1)C(C1=CC=CC=C1)O | C15H21NO5S
